US08895599B2
To 30 ml of an acetonitrile solution of 3.9 g (16 mmol) of 4′-hydroxy-3′-methoxy-2-bromoacetophenone was added 3.2 g (34 mmol) of 2-aminopyrimidine, and the mixture was stirred at 65° C. for 2 hours. The precipitated crystals were suction filtered and dissolved in 100 ml of 50% methanol. This solution was mixed with 1.3 g of sodium hydrogencarbonate and stirred at room temperature for 10 minutes. The precipitated crystals were suction filtered, and recrystallized from 50 ml of 50% methanol, thereby giving 2.4 g of 2-(4-hydroxy-3-methoxyphenyl)imidazo[1,2-a]pyrimidine in an yield of 62%.

reactant | 4′-hydroxy-3′-methoxy-2-bromoacetophenone | 16 mmol, 3.9 g | OC1=C(C=C(C=C1)C(CBr)=O)OC | C9H9BrO3
reactant | 2-aminopyrimidine | 34 mmol, 3.2 g | NC1=NC=CC=N1 | C4H5N3
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(4-hydroxy-3-methoxyphenyl)imidazo[1,2-a]pyrimidine | 2.4 g, yield of 62% | OC1=C(C=C(C=C1)C=1N=C2N(C=CC=N2)C1)OC | C13H11N3O2
